US07173035B2
A mixture of 4-chloro-3-nitrobenzenesulfonylchloride (1 g, 3.9 mmol), 3-chloroaniline (0.5 mL, 4.7 mmol) and pyridine (1.6 mL) in CH2Cl2 (2 mL) was stirred at room temperature. The reaction was quenched with NaHCO3 (sat aq solution, 30 mL×3). The organic phase was separated, dried (MgSO4), and filtered. The volatiles were evaporated and the residue was purified by column chromatography (SiO2, pentane:EtOAc, 4:1) to give 4-chloro-N-(3-chlorophenyl)-3-nitrobenzenesulfonamide; MS (posESI) m/z=349.2 (M+H+). 1H NMR (CDCl3) δ 7.00–7.40 (m, 3H), 7.60–7.90 (m, 3H), 8.70 (bs, 1H). 4-Chloro-N-(3-chlorophenyl)-3-nitrobenzenesulfonamide (0.45 g, 1.3 mmol), N-methylpiperazine (0.191 mL, 1.73 mmol) and K2CO3 (359 mg, 2.6 mmol) in CH3CN (2.5 mL) as the filtrated was concentrated to give a residue which was purified by column (SiO2, CHCl3:MeOH:NH3 9:1:0.4%) to give 420 mg of N-(3-chlorophenyl)-4-(4-methyl-1-piperazinyl)-3-nitrobenzenesulfonamide (85%). Purity>95% according to HPLC analysis. The compound was dissolved in THF (1 mL) and ethanol (5 mL) was added. The solution was treated with Raney-Ni (50 mg) and hydrazine monohydrate (0.05 mL) overnight. The Raney-Ni was filtered (celite pad), the volatiles were evaporated and the residue was purified by column chromatography (SiO2, CHCl3:MeOH:NH3 9:1:0.4%). The product was isolated as hydrochloride salt by treatment with HCl gas in diethyl ether to yield 170 mg of final product (32%).

reactant | 4-chloro-3-nitrobenzenesulfonylchloride | 3.9 mmol, 1 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | 3-chloroaniline | 4.7 mmol, 0.5 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-(3-chlorophenyl)-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)Cl)[N+](=O)[O-] | C12H8Cl2N2O4S
